US07989480B2
(S)-2,2-Dimethyl-4-[4-(4-phenoxy-phenoxy)-benzyl]-oxazolidine 3-carboxylic acid tert-butyl ester
To a solution of (S)-4-(4-Hydroxy-benzyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (0.250 g, 0.846 mmol), 4-Phenoxyphenyl-boronic acid (0.181 g, 0.846 mmol), and triethylamine (0.59 mL, 4.232 mmol) in anhydrous dichloromethane (DCM) (20.8 mL) at room temperature under an atmosphere of nitrogen was added copper (II) acetate (0.154 g, 0.846 mmol), and the resulting mixture was stirred at room temperature for about 60 hours. The reaction mixture was washed with 20 mL of water and 20 mL of DCM and filtered. The DCM layer was then extracted. The aqueous layer was re-extracted with DCM (2×15 mL). The combined organic layers were dried over anhydrous Na2SO4, filtered, and the solvent was removed in vacuo to obtain the crude mixture, which was purified by of silica gel flash chromatography, using EtOAc/hexane (gradient system), to obtain the product (0.030 g, 8%).

reactant | (S)-4-(4-Hydroxy-benzyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.846 mmol, 0.250 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1=CC=C(C=C1)O)(C)C | C17H25NO4
reactant | 4-Phenoxyphenyl-boronic acid | 0.846 mmol, 0.181 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | triethylamine | 4.232 mmol, 0.59 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20.8 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 0.846 mmol, 0.154 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (S)-2,2-Dimethyl-4-[4-(4-phenoxy-phenoxy)-benzyl]-oxazolidine 3-carboxylic acid tert-butyl ester | 0.030 g, 8% | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1=CC=C(C=C1)OC1=CC=C(C=C1)OC1=CC=CC=C1)(C)C | C29H33NO5
